US06353111B1
A mixture of magnesium metal (1.94 g, 80 mmol) and dry tetrahydrofuran (3 mL) under argon was treated with a solution of 1,2-dibromoethane (0.56 g, 3 mmol) in dry tetrahydrofuran (2 mL). The resulting reaction mixture was stirred for 10 min to activate the magnesium metal. The reaction mixture was then treated dropwise with a solution of cyclooctyl bromide (7.64 g, 40 mmol) in dry tetrahydrofuran (15 mL), one-fifth portion over a period of 5 min. The resulting reaction mixture was stirred for 5-10 min to initiate the exothermic reaction. The remaining portion of the cyclooctyl bromide solution was then added dropwise while controlling the inside temperature below 50° C. After complete addition, the solution was stirred for 1 h and then diluted with dry tetrahydrofuran (30 mL). In a separate reaction flask, a mixture of lithium chloride (3.39 g, 80 mmol, predried at 130° C. under high vacuum for 3 h) and copper cyanide (3.58 g, 40 mmol) in dry tetrahydrofuran (40 mL) was stirred at 25° C. under argon for 10 min to obtain a clear solution. The reaction mixture was cooled to −70° C. and then slowly treated with the freshly prepared cyclooctylmagnesium bromide. After the addition, the reaction mixture was allowed to warm to −10° C. where it was stirred for 5 min. The resulting reaction mixture was again cooled back to −70° C. and then treated with methyl propiolate (3.02 g, 36 mmol). The reaction mixture was stirred for 15 h at −70° C. to −50° C. and then slowly treated with a solution of iodine (15.22 g, 60 mmol) in dry tetrahydrofuran (15 mL), with the temperature kept at −70° C. to −60° C. After addition of the iodine solution, the cooling bath was removed, and the reaction mixture was allowed to warm to 25° C. where it was stirred for 2 h. The reaction mixture was then poured into a solution consisting of a saturated aqueous ammonium chloride solution (200 mL) and ammonium hydroxide (50 mL), and the organic compound was extracted into ethyl acetate (3×100 mL). The combined organic extracts were successively washed with a saturated aqueous sodium thiosulfate solution (1×200 mL) and a saturated aqueous sodium chloride solution (1×200 mL). The organic layer was then dried over anhydrous magnesium sulfate, filtered, and concentrated in vacuo. Biotage chromatography (FLASH 40M, Silica, 20/1 to 10/1 hexanes/diethyl ether) afforded (E)-3-cyclooctyl-2-iodo-acrylic acid methyl ester (5.04 g, 43%) as a colorless oil: EI-HRMS m/e calcd for C12H19IO2 (M+) 322.0430, found 322.0432.

reactant | magnesium | 80 mmol, 1.94 g | [Mg] | Mg
reactant | 1,2-dibromoethane | 3 mmol, 0.56 g | BrCCBr | C2H4Br2
reactant | cyclooctyl bromide | 40 mmol, 7.64 g | C1(CCCCCCC1)Br | C8H15Br
reactant | lithium chloride | 80 mmol, 3.39 g | [Cl-].[Li+]
reactant | copper cyanide | 40 mmol, 3.58 g | [Cu](C#N)C#N
reactant | cyclooctylmagnesium bromide | C1(CCCCCCC1)[Mg]Br
reactant | methyl propiolate | 36 mmol, 3.02 g | C(C#C)(=O)OC | C4H4O2
reactant | iodine | 60 mmol, 15.22 g | II | I2
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | (E)-3-cyclooctyl-2-iodo-acrylic acid methyl ester | 5.04 g, 43% | COC(/C(=C\C1CCCCCCC1)/I)=O | C12H19IO2
